US05679689
I. (3aS,7aR)-1,2,3,7a-Tetrahydro-isoindol-3a-ylamine ((1S ,6R)-1-amine-8-azabicyclo[4.3.0]nona-2,4-diene)
Analogously to Step F, 11 g of crude methyl (1S,6R)-1-methoxycarbonylamino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate are hydrolysed in 150 ml of water using 42 g of Ba(OH)2.8 H2O and worked up accordingly. Yield: 3 g (44.6% of theory based on Step G), boiling point: 70° C./0.1 mbar, [α]D =+235.9° (c=1,14, methanol).

reactant | methyl (1S,6R)-1-methoxycarbonylamino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate | 11 g | COC(=O)N[C@]12C=CC=C[C@@H]2CN(C1)C(=O)OC | C12H16N2O4
reactant | methanol | CO | CH4O
solvent | water | 150 ml, 42 g | O | H2O
product | (3aS,7aR)-1,2,3,7a-Tetrahydro-isoindol-3a-ylamine | C1NC[C@@]2(C=CC=C[C@H]12)N | C8H12N2
